US07470680B2
tert-butyl 4-(2-(2-nitropyridin-3-yl)ethylamino)piperidine-1-carboxylate.
2-Nitro-3-vinylpyridine (0.300 g, 2 mmol), tert-butyl 4-aminopiperidine-1-carboxylate (0.601 g, 3.00 mmol), and ethanol (5 ml) were combined. Triethylamine (0.836 ml, 6.00 mmol) was added. The vial was capped and heated at 90° C. for 62 hours. More tert-butyl 4-aminopiperidine-1-carboxylate (0.601 g, 3.00 mmol), and triethylamine (0.836 ml, 6.00 mmol) were added and the mixture was heated at 90° C. for 20 hours. Mixture was concentrated by roto-vap. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as tan solid in 48% yield. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 8.38 (dd, J=4.58, 1.53 Hz, 1 H) 7.84 (dd, J=7.63, 1.53 Hz, 1 H) 7.49 (dd, J=7.63, 4.58 Hz, 1 H) 3.92 (s, 2 H) 2.85-2.98 (m, 3 H) 2.75 (t, J=11.75 Hz, 2 H) 2.50-2.62 (m, 1 H) 1.75 (d, J=12.51 Hz, 2 H) 1.40 (s, 9 H) 1.00-1.27 (m, 4 H).

reactant | 2-Nitro-3-vinylpyridine | 2 mmol, 0.300 g | [N+](=O)([O-])C1=NC=CC=C1C=C | C7H6N2O2
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 3.00 mmol, 0.601 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Triethylamine | 6.00 mmol, 0.836 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 3.00 mmol, 0.601 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 6.00 mmol, 0.836 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | tert-butyl 4-(2-(2-nitropyridin-3-yl)ethylamino)piperidine-1-carboxylate | 48% yield | [N+](=O)([O-])C1=NC=CC=C1CCNC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N4O4
